US07595311B2
3-(4-fluorobenzoyl)-10-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester;
In a manner similar to that described above in Step A, but replacing 7-benzyloxy-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester with 8-benzyloxy-3-(4-fluorobenzoyl)1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester, 9-benzyloxy-3-(4-fluorobenzoyl)1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester or 9-dibenzylamino-3-(4-fluorobenzoyl)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester, the following compounds were prepared:

reactant | 8-benzyloxy-3-(4-fluorobenzoyl)1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=C(C=CC21)OCC2=CC=CC=C2)(C)C)C(C2=CC=C(C=C2)F)=O | C31H29FN2O4
reactant | 9-benzyloxy-3-(4-fluorobenzoyl)1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC(=CC21)OCC2=CC=CC=C2)(C)C)C(C2=CC=C(C=C2)F)=O | C31H29FN2O4
reactant | 9-dibenzylamino-3-(4-fluorobenzoyl)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC(=CC21)N(CC2=CC=CC=C2)CC2=CC=CC=C2)(C)C)C(C2=CC=C(C=C2)F)=O | C38H36FN3O3
product | 3-(4-fluorobenzoyl)-10-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CCC2=C1NC=1C=CC=C(C21)O)C(C2=CC=C(C=C2)F)=O | C22H19FN2O4
